US08541588B2
4-{2-[2-(Azetidin-1-ylmethyl)pyridin-4-yl]-4-chlorophenoxy}-2,5-difluoro-N-1,3-thiazol-4-ylbenzenesulfonamide
tert-Butyl [(4-{2-[2-(azetidin-1-ylmethyl)pyridin-4-yl]-4-chlorophenoxy}-2,5-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate, (Preparation 878, 0.325 g, 0.0005 mol) was dissolved in dichloromethane (3 mL) then 4 molar hydrogen chloride in 1,4-dioxane (3 mL) was added. The reaction was stirred at room temperature for 18 hours. The reaction was concentrated in vacuo and the crude product purified by preparative HPLC to give the title compound.

reactant | tert-Butyl [(4-{2-[2-(azetidin-1-ylmethyl)pyridin-4-yl]-4-chlorophenoxy}-2,5-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | N1(CCC1)CC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2F)S(=O)(=O)N(C(OC(C)(C)C)=O)C=2N=CSC2)F)C=CC(=C1)Cl | C29H27ClF2N4O5S2
reactant | hydrogen chloride | 4 molar | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-{2-[2-(Azetidin-1-ylmethyl)pyridin-4-yl]-4-chlorophenoxy}-2,5-difluoro-N-1,3-thiazol-4-ylbenzenesulfonamide | N1(CCC1)CC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2F)S(=O)(=O)NC=2N=CSC2)F)C=CC(=C1)Cl | C24H19ClF2N4O3S2
